US04692182
Concentrated hydrochloric acid (25 ml) was added dropwise to a stirred mixture of 2-[(3-amino-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone (6.45 g, 0.025 mole) and water (75 ml). The reaction mixture was cooled to 0° C., and a solution of sodium nitrite (2.0 g, 0.03 moles) in water (25 ml) was added dropwise. Upon completion of addition, the reaction mixture was stirred at 0° C. for 30 minutes. An insoluble material was removed by filtration. The filtrate was cooled to 0° C., and sodium azide (1.6 g, 0.025 mole) was added portionwise. Upon completion of addition, the reaction mixture was stirred for 15 minutes. The reaction mixture was diluted with water (500 ml) and extracted with methylene chloride (3×100 ml). The dried (sodium sulfate) methylene chloride extract was concentrated under reduced pressure to yield 5.3 g of 2-[(3-azido-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone as a brown oil. The NMR spectrum was consistent with the proposed structure.

reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | 2-[(3-amino-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 0.025 mole, 6.45 g | NC=1C(=C(C=CC1)CN1OCC(C1=O)(C)C)Cl | C12H15ClN2O2
reactant | sodium nitrite | 0.03 moles, 2.0 g | N(=O)[O-].[Na+]
reactant | sodium azide | 0.025 mole, 1.6 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 25 ml | O | H2O
solvent | water | 500 ml | O | H2O
solvent | water | 75 ml | O | H2O
product | 2-[(3-azido-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 5.3 g | N(=[N+]=[N-])C=1C(=C(C=CC1)CN1OCC(C1=O)(C)C)Cl | C12H13ClN4O2
